US09284284B2
d) [5-(5-Azido-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A mixture of [5-(5-bromo-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (5.0 g, 12.91 mmol) in EtOH (50 ml) was homogenized in an ultrasound bath for 10 min. To this suspension was added water (22 ml), cyclohexane dimethyldiamine (0.611 ml, 0.551 g, 3.87 mmol), sodium ascorbate (0.512 g, 2.58 mmol), sodium azide (3.36 g, 51.6 mmol) and CuI (0.492 g, 2.58 mmol). The reaction mixture was degassed with Ar and heated for 1 h at 70° C., then cooled to rt, filtered through silica gel and concentrated. The resulting title compound was purified by FC (cyclohexane:EtOAc 100.0 to 80:20).

reactant | [5-(5-bromo-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 12.91 mmol, 5.0 g | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)Br)F)=O | C16H20BrFN2O3
reactant | water | 22 ml | O | H2O
reactant | sodium ascorbate | 2.58 mmol, 0.512 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | sodium azide | 51.6 mmol, 3.36 g | [N-]=[N+]=[N-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | CuI | 2.58 mmol, 0.492 g | [Cu]I
product | [5-(5-Azido-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)N=[N+]=[N-])F)=O | C16H20FN5O3
